US07517991B2
To a solution of 4-(N-(2-methyl-3-phenyl-2-(E)-propenyl)aminomethyl)-1-t-butoxycarbonylpiperidine (1.44 g, 4.18 mmol) and triethylamine (0.80 g, 7.9 mmol) in dichloromethane (60 mL) stirring at 0° C. under argon, was added cyclohexanecarbonyl chloride (0.75 g, 5.1 mmol) in a single portion. After 5 min the mixture was allowed to warm to room temperature. Water (0.2 mL) was added, and the mixture was evaporated under vacuum. Column chromatography (loaded as a slurry in dichloromethane, silica gel, step-wise gradient of 10% to 38% ethyl acetate in hexane) provided 4-(N-cyclohexylcarbonyl-N-(2-methyl-3-phenyl-2-(E)-propenyl)aminomethyl)-1-t-butoxycarbonylpiperidine (1.67 g, 88% yield) as a colorless gum. TLC Rf=0.19, 25% ethyl acetate in hexane.

reactant | 4-(N-(2-methyl-3-phenyl-2-(E)-propenyl)aminomethyl)-1-t-butoxycarbonylpiperidine | 4.18 mmol, 1.44 g | C/C(/CNCC1CCN(CC1)C(=O)OC(C)(C)C)=C\C1=CC=CC=C1 | C21H32N2O2
reactant | triethylamine | 7.9 mmol, 0.80 g | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 5.1 mmol, 0.75 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | Water | 0.2 mL | O | H2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(N-cyclohexylcarbonyl-N-(2-methyl-3-phenyl-2-(E)-propenyl)aminomethyl)-1-t-butoxycarbonylpiperidine | 1.67 g, 88% yield | C1(CCCCC1)C(=O)N(C\C(=C\C1=CC=CC=C1)\C)CC1CCN(CC1)C(=O)OC(C)(C)C | C28H42N2O3
